Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17].[H:1]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17],-4.8332976134
[H:1].[O:2]=[C:3][C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.76168700699
[H:1][O:2][C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C:3][O:4][C:5][C:7]([H:8])([H:9])[H:10].[H:6],4.38684085809
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1],4.93688810403
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-3.8004655759400015
[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:3].[O:1]=[C:2][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],3.976713277
[C:2]=[C:3]([H:4])[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[O:1]>>[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11],-7.59048743377
[C:6]([H:7])[H:8].[O:1]=[C:2]([O:3][H:4])[C:5][C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([O:3][H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-8.089154831110001
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:7]([H:8])([H:9])[H:10].[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],-3.0264160921
[O:1]=[C:2]([C:3]([H:4])[C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:4].[O:1]=[C:2]([C:3][C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11],4.83098850464
[C:2](=[C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[O:9][H:10].[O:1]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[O:9][H:10],-5.77480729041
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12]>>[H:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:11][H:12],1.6973015933200002
[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@@:9]([H:10])([C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.61773557092
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][H:11],7.43772399
[H:10].[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[O:11][H:12]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.30203365633
[H:1][C:2]#[C:4][O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:3]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.39419302933
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12]>>[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12],4.10127042206
[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])(=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][H:3],0.97974040767
[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[O:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.93754452865
[O:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],-0.38595126956
[C:6]([O:7][H:8])(=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([O:7][H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.8327457509620001
[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12].[O:1]=[O:2]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-3.63984215031
[O:1]=[C:2]=[C:3]([H:4])[H:5].[O:6]=[C:7][C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11],1.89968434515
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2]#[C:3][C:4]([H:5])[H:6],4.05972783539
[C:4]([H:5])#[C:6][O:7].[O:1][C:2][C:3]>>[O:1]=[C:2]=[C:3][C:4]([H:5])=[C:6]=[O:7],-4.97910308193
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13],1.98642623876
[H:8].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]=[C:9]([H:10])[H:11]>>[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-2.70266923467
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6].[C:7]([H:8])([H:9])=[C:10]([H:11])[H:12]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-1.58774059878
